US05081281
Into a nitrogen-flushed reaction flask, under N2 atmosphere, was added 4.50 g (20 mmol) of dimethyl 4-chloro-benzenedicarboxylate (CBDM) 5.2 g (20 mmol) of anhydrous NaBr, 2.68 g (40 mmol) zinc powder and 0.52 g (0.8 mmol) (Ph3P)2.NiCl2. The mixture was maintained under a nitrogen atmosphere while 30 ml of DMAC, dried over molecular sieves was added. The mixture was heated with stirring to 80.C in one hour. The color of the solution turned from bluish-green to brown in 0 5 hours. After 4 hours, the solution was cooled, filtered and the solvent was removed on a rotary evaporator. Chloroform was added and the solution filtered again. The filtrate was washed three times with saturated aqueous NaCl. CHCl3 was removed. 50 ml of 20% NaOH solution was added to the residue and and the mixtures was heated to reflux for 4 hours. The mixture was filtered and the filtrate was acidified with concentrated hydrochloric acid. A white precipitate formed, was filtered, washed with H2O several times, and dried in an oven at 100° C. to afford 3.2 g of biphenyltetracarboxylic acid (97% yield). The tetra acid was heated slowly to 210°-220° C. to dehydrate and afford biphenyldianhydride, m.p. 299°-302° C.

reactant | dimethyl 4-chloro-benzenedicarboxylate | 20 mmol, 4.50 g | ClC=1C=C(C(=CC1)C(=O)OC)C(=O)OC | C10H9ClO4
reactant | NaBr | [Na+].[Br-]
catalyst | zinc | 40 mmol, 2.68 g | [Zn] | Zn
catalyst | NiCl2 | Cl[Ni]Cl
solvent | DMAC | 30 ml | CC(=O)N(C)C | C4H9NO
product | biphenyltetracarboxylic acid | 3.2 g, 97% yield | C1(=C(C(=C(C(=C1)C(=O)O)C(=O)O)C(=O)O)C(=O)O)C1=CC=CC=C1 | C16H10O8
